US04731358
6-diallylamino-3-methylthio-β-carboline
229 mg of 6-amino-3-methylthio-β-carboline are heated in 15 ml of ethanol (absolute) with 0.27 ml of allylbromide and 0.37 ml of diazabicycloundecene for 3 hours to 70° C. After concentration to dryness, it is dispersed in ethyl acetate/saturated sodium chloride solution. The organic phase is dried, filtered and concentrated. After trituration of the residue with diispropyl ether, 70 mg of 6-diallylamino-3-methylthio-β-carboline with a 110° C. melting point are obtained.

reactant | 6-amino-3-methylthio-β-carboline | 229 mg | NC=1C=C2C=3C=C(N=CC3NC2=CC1)SC | C12H11N3S
reactant | allylbromide | 0.27 ml | C(C=C)Br | C3H5Br
reactant | diazabicycloundecene | 0.37 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-diallylamino-3-methylthio-β-carboline | C(C=C)N(C=1C=C2C=3C=C(N=CC3NC2=CC1)SC)CC=C | C18H19N3S
